US05929119
N-(2,3-dichloro-4-hydroxyphenyl)-3-chloro-2,2-dimethylpropane-carboxamide (Compound 1 in Table B)
1.55 g (0.01 mol) of chloropivaloyl chloride were added dropwise at 0° C. to a solution of 1.93 g (0.011 mol) of 4-amino-2,3-dichlorophenol in 30 ml of tetrahydrofuran, and stirring of the mixture was continued at 25° C. until starting compound was no longer detectable by thin-layer chromatography. The reaction mixture was subsequently poured into water and extracted three times using 20 ml of methylene chloride. The combined organic phases were washed twice using water, dried and concentrated. The residue was chroamtographed on silica gel (eluent: cyclohexane: ethyl acetate=2:1; yield: 0.75 g, m.p. 115° C.).

reactant | chloropivaloyl chloride | 0.01 mol, 1.55 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | 4-amino-2,3-dichlorophenol | 0.011 mol, 1.93 g | NC1=C(C(=C(C=C1)O)Cl)Cl | C6H5Cl2NO
reactant | water | O | H2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(2,3-dichloro-4-hydroxyphenyl)-3-chloro-2,2-dimethylpropane-carboxamide | ClC1=C(C=CC(=C1Cl)O)NC(=O)CC(CCl)(C)C | C12H14Cl3NO2
